US08242313B2
5,5,5-Trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate
29.6 g (0.1 mol) of 5-bromo-1,1,1-trichloro-4-methoxypent-3-en-2-one, 19.1 g of cesium acetate, 5 g of tetrabutylammonium bromide and 8 g of acetic acid were stirred in 300 ml of acetonitrile at 25° C. for 8 h. The precipitate was filtered off and the organic phase was concentrated under reduced pressure.

reactant | 5-bromo-1,1,1-trichloro-4-methoxypent-3-en-2-one | 0.1 mol, 29.6 g | BrCC(=CC(C(Cl)(Cl)Cl)=O)OC | C6H6BrCl3O2
reactant | cesium acetate | 19.1 g | C(C)(=O)[O-].[Cs+]
reactant | acetic acid | 8 g | C(C)(=O)O | C2H4O2
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5,5,5-Trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate | C(C)(=O)OCC(=CC(C(Cl)(Cl)Cl)=O)OC | C8H9Cl3O4
